US07238725B2
Intermediate 83: 4-Hydroxydibenzothiophene
n-Butyllithium (26.25 g, 406 mmols, 175 ml of 2.4M solution in hexane) was added to a stirred solution of dibenzothiophene (25 g, 135.7 mole) in dry THF (200 ml) at 0° C. over a period of 1 hr under dry N2 atmosphere. This reaction mixture was stirred overnight at room temperature and dry oxygen gas was bubbled into the reaction mixture over 5 hrs. This reaction mixture was poured slowly over cold 1N HCl (500 ml). The organic layer was separated and the aqueous layer was extracted with ethyl acetate (3×500 ml). Organic layers were mixed together and concentrated to dryness to get crude product (32 g). The crude product was purified by silica gel column chromatography.

reactant | n-Butyllithium | 406 mmols, 2.4M, 175 ml, 26.25 g | C(CCC)[Li]
reactant | dibenzothiophene | 135.7 mole, 25 g | C1=CC=CC=2SC3=C(C21)C=CC=C3 | C12H8S
reactant | THF | 200 ml | C1CCOC1 | C4H8O
product | 4-Hydroxydibenzothiophene | 32 g | OC1=CC=CC2=C1SC1=C2C=CC=C1 | C12H8OS
